US08022206B2
(2-Hydroxymethylphenyl)acetonitrile
To a suspension of sodium borohydride (454 mg, 12.0 mmol) in THF (20 mL) was slowly added a solution of 2-cyanomethylbenzoic acid (1.61 g, 10.0 mmol) in THF (20 mL), then a solution of iodine (1.30 g, 5.0 mmol) in THF (20 mL) was slowly added at rt. The resulting mixture was stirred at rt for 1 h. The reaction was quenched with 3 N HCl (10 mL), then extracted with Et2O (3×20 mL). The combined organic phases were washed with brine (20 mL), and dried over anhydrous sodium sulfate. The residue was purified by silica gel chromatography (Hex:EtOAc=80:20→60:40) to give the title compound as a yellow oil. 1H NMR (CD3OD): δ=3.98 (s, 2H), 4.27 (s, 2H), 7.33 (m, 2H), 7.41 (m, 2H).

reactant | sodium borohydride | 12.0 mmol, 454 mg | [BH4-].[Na+]
reactant | 2-cyanomethylbenzoic acid | 10.0 mmol, 1.61 g | C(#N)CC1=C(C(=O)O)C=CC=C1 | C9H7NO2
reactant | iodine | 5.0 mmol, 1.30 g | II | I2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2-Hydroxymethylphenyl)acetonitrile | OCC1=C(C=CC=C1)CC#N | C9H9NO
